US07169810B2
(b) (2S)-3-[4-(3-{4-[(tert-Butoxycarbonyl)amino]phenyl}propoxy)phenyl]-2-ethoxypropanoic acid
Ethyl (2S)-3-[4-(3-{4-[(tert-butoxycarbonyl)amino]phenyl}propoxy)phenyl]-2-ethoxypropanoate (350 mg, 0.742 mmol) was dissolved in THF (10 ml). Under stirring, lithium hydroxide in water (5 ml) was added. The mixture was stirred at room temperature and followed by HPLC. After 4 hours, the reaction was stopped. More lithium hydroxide (9 mg) was added. The mixture was stirred overnight. It was then evaporated in vacuum to remove THF. The residue was extracted with diethyl ether and then acidified with 10% hydrochloric acid, pH˜3, and extracted with ethyl acetate (×2). The organic phases were combined and washed with brine and dried with magnesium sulfate. The solvent was evaporated and white solid product (315 mg) was left, yield 96%.

reactant | Ethyl (2S)-3-[4-(3-{4-[(tert-butoxycarbonyl)amino]phenyl}propoxy)phenyl]-2-ethoxypropanoate | 0.742 mmol, 350 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCCOC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC | C27H37NO6
reactant | lithium hydroxide | [OH-].[Li+]
reactant | lithium hydroxide | 9 mg | [OH-].[Li+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | (2S)-3-[4-(3-{4-[(tert-Butoxycarbonyl)amino]phenyl}propoxy)phenyl]-2-ethoxypropanoic acid | yield 96% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OCC | C25H33NO6
